US06737382B1
2-Amino-5-chloro-4-trifluoromethylthiazole
2-Amino-4-trifluoromethylthiazole (10 g) was dissolved in acetonitrile (80 ml) and N-chlorosuccinimide (8.8 g) was added at room temperature with stirring. The mixture was refluxed for 9 hr and the solvent was removed under reduced pressure. The residue was dissolved in chloroform and washed with cold diluted aqueous sodium hydroxide. The chloroform layer was dried over magnesium sulfate and the solvent was removed under reduced pressure to give crude 2-Amino-5-chloro-4-trifuloromethylthiazole (12 g). It was recrystallized from n-hexane-benzene (1:1 mixture) as colorless needles (6.8 g), m. p. 107-108° C.

reactant | 2-Amino-4-trifluoromethylthiazole | 10 g | NC=1SC=C(N1)C(F)(F)F | C4H3F3N2S
reactant | N-chlorosuccinimide | 8.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-Amino-5-chloro-4-trifluoromethylthiazole | NC=1SC(=C(N1)C(F)(F)F)Cl | C4H2ClF3N2S
